US09193707B2
3. Synthesis of 2-(4-methylphenyl)quinazoline-4-carboxylic acid
Into a 150-mL 3-necked round-bottom flask, was placed a solution of ethyl 2-(4-methylphenyl)quinazoline-4-carboxylate (2.64 g, 9.03 mmol, 1.00 equiv) in ethanol (50 mL). This was followed by the addition of sodium hydroxide (1.8 g, 45.00 mmol, 5.00 equiv, 20%) dropwise with stirring at room temperature. The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 50 mL of water. Hydrogen chloride (5%) was employed to adjust the pH to 3-4. The solids were collected by filtration. This resulted in 2.30 g (96%) of 2-(4-methylphenyl)quinazoline-4-carboxylic acid as a light green solid. MS (ESI) m/z 265 ([M+H]+).

reactant | ethyl 2-(4-methylphenyl)quinazoline-4-carboxylate | 9.03 mmol, 2.64 g, 1.00 equiv | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C18H16N2O2
reactant | sodium hydroxide | 45.00 mmol, 1.8 g, 5.00 equiv | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(4-methylphenyl)quinazoline-4-carboxylic acid | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C16H12N2O2
